US05840732
ii) Synthesis of 5-butylidene-3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 2.14 g (4.96 mmol) of 5-butylidene-3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione in 20 ml of methanol, 0.45 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 2.07 g (89.2%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione | 4.96 mmol, 2.14 g | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C(=O)OCC)=O | C21H25N3O5S
reactant | hydrochloric acid | 0.45 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-butylidene-3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C(=O)OCC)=O | InChI=1S/C21H25N3O5S.ClH/c1-3-5-10-17-19(25)24(21(27)30-17)12-6-7-13-29-16-9-8-11-23-14-15(22-18(16)23)20(26)28-4-2;/h8-11,14H,3-7,12-13H2,1-2H3;1H
